data/mechanism_extracts/ChemSci/10.1039_d3sc05946d.json
{"doi": "10.1039_d3sc05946d", "journal": "ChemSci", "is_review": false, "rxn_class_summary": "Electrochemical four-component domino [1+2+1+1] cycloaddition of aldehydes, styrenes, tert-butyl nitrite, and H2O to give 3,5-disubstituted isoxazoles", "mechanism_family": ["radical_anodic", "mediator_anodic", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of bromide (from n-Bu4NBr electrolyte) to Br radical, which serves as a HAT mediator to abstract the aldehyde C-H and generate an acyl radical; cathode reduces protons to H2", "key_intermediates": [{"name": "bromine radical (Br•) from anodic oxidation of Br-", "smiles": "[Br]", "role": "transient"}, {"name": "acyl radical A from aldehyde HAT", "smiles": null, "role": "reactive"}, {"name": "tert-butoxy radical II from TBN homolysis", "smiles": "[O]C(C)(C)C", "role": "transient"}, {"name": "N=O radical III from TBN homolysis", "smiles": "[N]=O", "role": "reactive"}, {"name": "N=O radical IV generated in situ from TBN + H2O via HNO2", "smiles": "[N]=O", "role": "reactive"}, {"name": "carbon-centered radical B from acyl radical addition to styrene", "smiles": null, "role": "reactive"}, {"name": "β-carbonyl nitroso adduct C", "smiles": null, "role": "transient"}, {"name": "β-carbonyl ketoxime intermediate D (isolated/probed as 11)", "smiles": null, "role": "reactive"}, {"name": "cyclized hydroxyisoxazoline E", "smiles": null, "role": "transient"}, {"name": "isoxazole F (3,5-disubstituted)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes Br- to Br•, which abstracts the aldehyde C-H to form an acyl radical that adds to styrene; the resulting C-radical combines with an N=O radical (from TBN homolysis and/or TBN+H2O→HNO2→N=O) to give a β-carbonyl nitroso/oxime intermediate that cyclodehydrates (TFA-assisted) to the isoxazole, while the cathode evolves H2.", "rate_determining_step": "Step involving alkene 2 and TBN 3 (first-order in [alkene] and [TBN], zero-order in aldehyde), consistent with radical addition/N=O trapping being rate-limiting", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Yield drops to 3%, indicating radical intermediates"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Reaction suppressed (trace); BHT-N=O adduct 6 isolated and confirmed by HR-MS, supporting N=O radical"}, {"name": "D2O (replacing H2O)", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "Product m/z shifts 246→247; 88% D incorporation at C4 of isoxazole, showing H at C4 comes from water"}, {"name": "DMF-d7", "smiles": null, "purpose": "isotope_label", "observation": "No D incorporation (m/z 246), excluding DMF as H source"}, {"name": "H2-18O", "smiles": null, "purpose": "isotope_label", "observation": "m/z 246→248 (100%), showing isoxazole O partly originates from H2O (in addition to TBN)"}, {"name": "1,3-diketone 10 (presumed intermediate)", "smiles": null, "purpose": "intermediate_trap", "observation": "Subjected to standard conditions: no isoxazole formed, excluding 1,3-dicarbonyl pathway"}, {"name": "β-carbonyl ketoxime 11", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "Gave isoxazole 7 in 91% yield, supporting ketoxime D as on-cycle intermediate"}, {"name": "Substituted benzaldehyde competition (1a/1b, 1a/1c)", "smiles": null, "purpose": "other", "observation": "Electron-deficient aldehydes react faster (Hammett-type trend)"}], "evidence_types_used": ["H/D_labeling", "product_isotope_distribution", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "isolation_of_intermediate", "stoichiometric_intermediate", "cyclic_voltammetry", "kinetic_order", "crossover"], "evidence_strength": "strong", "notes": "Two parallel sources of N=O are proposed: direct TBN homolysis (pathway III) and TBN + H2O → HNO2 → N=O (pathway IV); 18O-labeling shows both TBN and water contribute the ring O. CV shows that mixing 1a+2a+3 lowers the oxidation potential of 1a from 0.99 V to 0.73 V vs SCE, supporting anodic involvement. α-Methylstyrene fails (steric effect); no reaction without current."}
